US05441971
A mixture of methyl 2-bromo-3-[4-[2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethoxy]phenyl]propionate (27.0 g), thiourea (4.6 g), sodium acetate (4.9 g) and ethanol (250 ml) was heated under reflux for 4 hours. To the reaction mixture was added 2N hydrochloric acid (250 ml). The mixture was further heated under reflux for 20 hours and concentrated under reduced pressure. The residue was neutralized with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The oily residue thus obtained was subjected to silica gel column chromatography. A fraction eluted with chloroform-methanol (40:1, v/v) gave 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione (14.8 g, yield: 66%). This crude compound was recrystallized from ethanol to obtain colorless prisms, m.p. 155°-156° C.

reactant | methyl 2-bromo-3-[4-[2-[5-(1-methoxymethoxyethyl)-2-pyridyl]ethoxy]phenyl]propionate | 27.0 g | BrC(C(=O)OC)CC1=CC=C(C=C1)OCCC1=NC=C(C=C1)C(C)OCOC | C21H26BrNO5
reactant | thiourea | 4.6 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 4.9 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N, 250 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-[4-[2-[5-(1-hydroxyethyl)-2-pyridyl]ethoxy]benzyl]-2,4-thiazolidinedione | 14.8 g, yield: 66% | OC(C)C=1C=CC(=NC1)CCOC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C19H20N2O4S
